US05981539
3-Quinuclidinone ethyleneketal.
A mixture of 3-quinuclidinone hydrochloride (5 g, 31 mmol) and ethylene glycol (20 ml) was heated under nitrogen at 200° C. (bath temperature) for 2 h. After cooling, the reaction mixture was poured in an excess of 1 M aqueous sodium hydroxide. Extraction with three portions of ethyl acetate was followed by drying over magnesium sulfate, and evaporation of the solvent to yield the product (5.2 g, 31 mmol, 100%) as a colorless oil.

reactant | 3-quinuclidinone hydrochloride | 31 mmol, 5 g | Cl.N12CC(C(CC1)CC2)=O
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
reactant | ethylene glycol | 20 ml | C(CO)O | C2H6O2
product | 3-Quinuclidinone ethyleneketal | 31 mmol, 5.2 g, 100% | C1COC2(CN3CCC2CC3)O1 | C9H15NO2
